** Memristor-based memcapacitive neurotransistor
.SUBCKT MemNeuroTransistor IN D G S SV
** Parameter
.params Icc=1m xmax=1 xmin=0 x0=0
+ion=1u ioff=100n aon=4 aoff=2
+etas=250 etar=100 Vs=0.5 Vr=-0.5
+Cp=10p Cgs=100p Rp=8Meg Rs=278
** Circuit
* Noise source for snap forward/snap back current
Gn 0 N value={white(1e8*time)}
Rn N 0 {1}
* Series resistance
Ri G M {Rs}
* Current source for memristance IV response
Gm M IN value={limit(Im(V(SV,0),V(M,IN)),-Icc,Icc)}
* Parallel capacitance and resistance
Cm G IN {Cp}
Rm G IN {Rp}
* State dynamics dx/dt = F(V,x)
Cx SV 0 {1} ic={x0}
Gx 0 SV value={F(V(SV,0),V(G,IN),I(Gn))}
* NMOS and gate-source capacitance
Mn D G S NT
Cg G S {Cgs}
** Functions
*linear state dependency
.func K(x,on,off)=off+(on-off)*limit(x,xmin,xmax)
*diode-like current function
.func Im(x,vm)= K(x,ion,ioff)*sinh(K(x,aon,aoff)*vm)
*set time constant with noise n
.func TS(v,n)=exp(-etas*(v-Vs*(1+n)))
*reset time constant with noise n
.func TR(v,n)=exp( etar*(v-Vr*(1+n)))
*State equation for state in range of [0,1]
.func F(x,v,n)= if(v>=0,(xmax-x)/TS(v,n),(xmin-x)/TR(v,n))
** NMOS transistor
.model NT NMOS(LEVEL=3 L=26u W=94u Vto=0.2 Tox=22n TPG=0 Uo=798
+THETA=42m PHI=66)
.ENDS MemNeuroTransistor
