* C:\Users\Raghuveer P M\Downloads\Neurotransistor-main\Neurotransistor-main\memNeuroTransistor.asc
XU1 Vin N001 Gate 0 State MemNeuroTransistor
V1 Vin N002 PULSE(0 1 0 20n 20n 10u 200u 6)
V2 N002 N004 PULSE(0 1 1.5m 20n 20n 10u 100u 13)
V3 N004 N005 PULSE(0 1 3m 20n 20n 10u 40u 13)
V4 N005 N006 PULSE(0 1 3.7m 20n 20n 10u 15u 13)
V5 N006 0 PULSE(0 1 4m 20n 20n 10u 15u 1)
Rd N003 N001 10
Vdd N003 0 3
.tran 0 4.2m 0 10n
.lib C:\Users\Raghuveer P M\Downloads\Neurotransistor-main\Neurotransistor-main\MemNeuroTransistor.sub
.backanno
.end
