* C:\Users\NAGARAJ V REDDY\Documents\NES\1SEM\NNMHA\Neuro-transistor-Simulation-with-Memristor-based-Memcapacitor-using-LTSPICE\src\base\mem_circuit.asc
V N001 0 SINE(0 3 0.02 0)
XU1 x dxdt N001 0 MEM_NAMLAB
.tran 50
.param x0=0.1
.lib C:\Users\NAGARAJ V REDDY\Documents\NES\1SEM\NNMHA\Neuro-transistor-Simulation-with-Memristor-based-Memcapacitor-using-LTSPICE\src\base\MEM_NAMLAB.cir
.backanno
.end
