* C:\Users\NAGARAJ V REDDY\Documents\NES\1SEM\NNMHA\Neuro-transistor-Simulation-with-Memristor-based-Memcapacitor-using-LTSPICE\src\base\sine_input.asc
Rs N001 N002 278
Rp N002 0 8Meg
V N001 0 SINE(0 3 0.02 0)
XU1 N002 0 state MEM_NAMLAB_CORE
.tran 50
.param x0=0.1
.lib MEM_NAMLAB_CORE.sub
.backanno
.end
