* C:\Users\NAGARAJ V REDDY\Documents\NES\1SEM\NNMHA\Neuro-transistor-Simulation-with-Memristor-based-Memcapacitor-using-LTSPICE\src\task4\task4a\temp\task4a.asc
V1 Vin N001 PULSE(0 -3 10m 10u 10u 10m 22m 100)
Vread N001 N002 PULSE(0 1 30m 10u 10u 1m 22m 200)
V3 N002 0 PULSE(0 2.7 2210m 10u 10u 10m 22m 100)
XU1 Vin 0 x dxdt MEM_NAMLAB
.tran 5
.param x0=100m
; Simulation Settings
; Simulation Settings
.lib .\MEM_NAMLAB.cir
.backanno
.end
